.subckt PTR A1 B1 C1 A2 B2 C2 inductor1=1.38 inductor2=0.5 coupling=1
* transformer 4:1 turns ratio specified by 8:0.5 inductance ratio (16:1), coupling is ideal (1)
* transformer 5:3 turns ratio specified by 1.38:0.5 inductance ratio (2.778:1), coupling is ideal (1)
l1pri A1 i1 {inductor1}
l2pri B1 i1 {inductor1}
l3pri C1 i1 {inductor1}
l1sec A2 i2 {inductor2}
l2sec B2 i2 {inductor2}
l3sec C2 i2 {inductor2}
k1 l1pri l1sec {coupling}
k2 l2pri l2sec {coupling}
k3 l3pri l3sec {coupling}
.ends PTR
